US06218545B1
Preparation of the Compound of the Formula I: 4,5-Dihydro-1-(4-chloro-2-fluorophenyl)-3-methyl-4-difluoromethyl-1,2,4-triazol-5(1H)-one
Under a nitrogen atmosphere, a stirred solution of 5.0 grams (0.0192 mole—1.0 equiv.) of 4,5-Dihydro-1-(4-chlorophenyl)-3-methyl-4-difluoromethyl-1,2,4-triazol-5(1H)-one and 6.8 grams (0.0192 mole—1.0 equiv.) of F-TEDA in 50 mL of acetonitrile (% Wt/Vol triazolinone to solvent—10%) was stirred at 82° C. for 24 hours. After this time, an additional 6.8 grams (0.0192 mole—1.0 equiv.) of F-TEDA was added. Upon completion of addition, the reaction mixture was stirred at 82° C. for an additional 24 hours. The reaction mixture was analyzed by gas chromatography (GC), which indicated the reaction was 78% complete. The reaction mixture was cooled to ambient temperature, and the acetonitrile was removed under reduced pressure. The resulting residue was taken up in 30 mL of water and then 40 mL of an aqueous 10% hydrochloric acid solution was added. The resulting solution was extracted with three 30 mL portions of ethyl acetate. The organic layer was separated from the aqueous layer, dried with magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure, yielding 2.9 grams (48% yield) of title compound. The H1 NMR spectrum of the product was consistent with that of a reference sample.

reactant | 4,5-Dihydro-1-(4-chlorophenyl)-3-methyl-4-difluoromethyl-1,2,4-triazol-5(1H)-one | 5.0 grams | ClC1=CC=C(C=C1)N1N=C(N(C1=O)C(F)F)C | C10H8ClF2N3O
reactant | F-TEDA | 6.8 grams | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | F-TEDA | 6.8 grams | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4,5-Dihydro-1-(4-chloro-2-fluorophenyl)-3-methyl-4-difluoromethyl-1,2,4-triazol-5(1H)-one | 2.9 grams, 48% yield | ClC1=CC(=C(C=C1)N1N=C(N(C1=O)C(F)F)C)F | C10H7ClF3N3O
